US07163947B2
A solution of 7-(3-aminopropoxy)-2-ethoxymethyl-N1-isopropyl-1H-imidazo[4,5-c]quinoline-1,4-diamine (0.84 g, 2.26 mmol) in 25 mL of CH2Cl2 was placed under an atmosphere of nitrogen. The solution was treated with triethylamine (0.63 mL, 4.75 mmol) and cooled in an ice water bath. The solution was slowly treated with methanesulfonyl chloride (0.184 mL, 2.37). The reaction was stirred and allowed to slowly come to ambient temperature. After 16 h, the reaction mixture was diluted with CHCl3 (20 mL) and transferred to a separatory funnel. The organic solution was washed with 10% Na2CO3 solution (15 mL), H2O (15 mL) and brine (15 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to yield a tan foam. The foam was purified by chromatography (SiO2, 10–50% (80:18:2 CHCl3:MeOH:NH4OH) in CHCl3) to give a light yellow solid. The solid was crystallized from MeCN to yield N-(3-{[4-amino-2-(ethoxymethyl)-1-(isopropylamino)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}propyl)methanesulfonamide (0.295 g) as white crystals. mp 181–183° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.46 (d, J=9.0 Hz, 1H), 7.09 (t, J=6.8 Hz, 1H), 7.02 (d, J=2.6 Hz, 1H), 6.90 (d, J=2.1 Hz, 1H), 6.87 (d, J=2.5 Hz, 1H), 6.54 (s, 2H), 4.71 (s, 2H), 4.11 (t, J=6.1 Hz, 2H), 3.64–3.58 (m, 3H), 3.14 (q, J=6.1 Hz, 2H), 2.91 (s, 3H), 1.96 (p, J=6.6 Hz, 2H), 1.15 (t, J=7.0 Hz, 3H), 1.01 (d, J=6.1 Hz, 6H); 13C NMR (75 MHz, DMSO-d6) δ 158.1, 152.6, 149.4, 147.2, 133.7, 122.6, 111.5, 109.1, 107.9, 65.8, 65.0, 63.0, 51.6, 29.7, 20.6, 15.3; MS (APCI) m/z 451 (M+H)+; Anal. Calcd for C20H30N6O4S: C, 53.32; H, 6.71; N, 18.65; S, 7.12; Found: C, 53.44; H, 6.68; N, 18.83; S, 7.09.

reactant | 7-(3-aminopropoxy)-2-ethoxymethyl-N1-isopropyl-1H-imidazo[4,5-c]quinoline-1,4-diamine | 2.26 mmol, 0.84 g | NCCCOC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3NC(C)C)COCC | C19H28N6O2
reactant | triethylamine | 4.75 mmol, 0.63 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.184 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(3-{[4-amino-2-(ethoxymethyl)-1-(isopropylamino)-1H-imidazo[4,5-c]quinolin-7-yl]oxy}propyl)methanesulfonamide | 0.295 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2NC(C)C)COCC)OCCCNS(=O)(=O)C | C20H30N6O4S
